US03971793
Piperidino-6-ethoxy-5-acetyl-4,7-dimethoxy-2,3-dihydrobenzofuran
A solution of 100g. of piperidino-6-ethoxy-5-acetyl-4,7-dimethoxybenzofuran in 600ml of 96° alcohol is hydrogenated in the presence of 11g. of palladium on 5% charcoal, under a pressure of 5 kg and at a temperature between 65° and 70° C.

reactant | piperidino-6-ethoxy-5-acetyl-4,7-dimethoxybenzofuran | N1(CCCCC1)C=1OC2=C(C1)C(=C(C(=C2OC)OCC)C(C)=O)OC | C19H25NO5
reactant | charcoal | C | CH4
catalyst | palladium | [Pd] | Pd
product | Piperidino-6-ethoxy-5-acetyl-4,7-dimethoxy-2,3-dihydrobenzofuran | N1(CCCCC1)C1OC2=C(C1)C(=C(C(=C2OC)OCC)C(C)=O)OC | C19H27NO5
